US08242145B2
Step 1: (3-{4-Bromo-2-[(4R,5S)-5-(3,5-difluoro-phenyl)-4-methyl-2-oxo-oxazolidin-3-ylmethyl]-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 6, Step 5, using the following starting materials: [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester and (4R,5S)-5-(3,5-difluoro-phenyl)-4-methyl-oxazolidin-2-one.

reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CBr)=O | C17H16Br2O4
reactant | (4R,5S)-5-(3,5-difluoro-phenyl)-4-methyl-oxazolidin-2-one | FC=1C=C(C=C(C1)F)[C@H]1[C@H](NC(O1)=O)C | C10H9F2NO2
product | (3-{4-Bromo-2-[(4R,5S)-5-(3,5-difluoro-phenyl)-4-methyl-2-oxo-oxazolidin-3-ylmethyl]-phenoxy}-4-methoxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN1C(O[C@H]([C@H]1C)C1=CC(=CC(=C1)F)F)=O)=O | C27H24BrF2NO6
